US06153652
Synthesis of N-(3-phenylpropionyl)-D,L-alanine iso-butyl ester
Following General Procedure A' above and using 3-phenylpropionyl chloride (Aldrich) and D,L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of from 51°-54° C. The reaction was monitored by tlc on silica gel and purification was by extraction with Et2O followed by washes with aqueous K2CO3 and aqueous HCl.

reactant | 3-phenylpropionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | D,L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC(C(N)C)=O
product | N-(3-phenylpropionyl)-D,L-alanine iso-butyl ester | C(C(C)C)OC(C(NC(CCC1=CC=CC=C1)=O)C)=O | C16H23NO3
